US04818765
2-bromo-1-(2,5-dimethoxyphenyl)-ethanone (10.0 g) is added dropwise to a solution of dimethylamine (6.1 g) in toluene (450 ml). The mixture is stirred overnight at room temperature and extracted with a 1-N water solution of hydrochloric acid (3×250 ml). The mixed aqueous phases are alcalinized with a 25% water solution of sodium hydroxide (200 ml) and extracted with dichloromethane (4×250 ml). The mixed organic phases are washed with water (3×200 ml) and dried over magnesium sulphate. The solvent is distilled in vacuo and the residue is dried in vacuo to constant weight to give 1-(2,5-dimethoxyphenyl)-2-dimethylamino-ethanone which is a liquid, b.p. 250°-255°.

reactant | 2-bromo-1-(2,5-dimethoxyphenyl)-ethanone | 10.0 g | BrCC(=O)C1=C(C=CC(=C1)OC)OC | C10H11BrO3
reactant | dimethylamine | 6.1 g | CNC | C2H7N
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,5-dimethoxyphenyl)-2-dimethylamino-ethanone | COC1=C(C=C(C=C1)OC)C(CN(C)C)=O | C12H17NO3
